US05516616
N-[2-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)ethyl]-N,N-dimethylbenzylammonium m-Nitrobenzenesulfonate
A solution of 6.75 g (30 mmol) of sodium m-nitrobenzenesulfonate in 50 ml of water was added to a warm solution of 13.44 g (30 mmol) of N-[2-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)ethyl]-N,N-dimethylbenzylammonium chloride prepared as described in Example 1 in 100 ml of water with water rinse. An oily precipitate formed immediately. The aqueous phase was decanted and the gummy residue was washed twice with water. The gum was dissolved in methylene chloride, washed with water, dried over magnesium sulfate and concentrated. Ligroine was added to the concentrate and decanted followed by hot heptane treatment whereupon the gum crystallized. The solid was collected, washed with ligroine and recrystallized from isopropanol. The yield of product was 12.5 g (67.78% of theory); mp=166°-167.5° C. (A change in crystal form occurred at ~155° C.).

reactant | sodium m-nitrobenzenesulfonate | 30 mmol, 6.75 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | N-[2-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)ethyl]-N,N-dimethylbenzylammonium chloride | 30 mmol, 13.44 g | [Cl-].C(C)(C)(C)C=1C=C(C(=O)OCC[N+](C)(C)CC2=CC=CC=C2)C=C(C1O)C(C)(C)C
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | N-[2-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)ethyl]-N,N-dimethylbenzylammonium m-Nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].C(C)(C)(C)C=1C=C(C(=O)OCC[N+](C)(C)CC2=CC=CC=C2)C=C(C1O)C(C)(C)C | InChI=1S/C26H37NO3.C6H5NO5S/c1-25(2,3)21-16-20(17-22(23(21)28)26(4,5)6)24(29)30-15-14-27(7,8)18-19-12-10-9-11-13-19;8-7(9)5-2-1-3-6(4-5)13(10,11)12/h9-13,16-17H,14-15,18H2,1-8H3;1-4H,(H,10,11,12)
